US07582651B2
Formyl succinonitrile potassium salt (36.5 g) and 1-aminoindane (36.6 g) were dissolved in water (100 ml), and acetic acid (100 ml) was added thereto. After agitating the mixture at 100° C. for 30 minutes, the reaction solution was poured into water (1200 ml). The reaction mixture was made basic by adding potassium carbonate and then extracted with ethyl acetate. After the organic layer was washed with water and dried (MgSO4), the solvent was distilled off under reduced pressure and the residue (37.4 g) was dissolved in ethanol (450 ml). After potassium ethoxide (35.2 g) was added thereto and the mixture was stirred at room temperature for 30 minutes, the reaction solution was poured into iced water (1500 ml) and extracted with ethyl acetate. After the organic layer was washed with water and dried (MgSO4), the solvent was distilled off under reduced pressure. The residue was subjected to silica gel column chromatography eluting with ethyl acetate-hexane (1:2, v/v) and the fractions were concentrated under reduced pressure to give 2-amino-1-(indan-1-yl)pyrrole-4-carbonitrile (20.4 g, 37%) as oily matter.

reactant | Formyl succinonitrile potassium salt | 36.5 g | [K].C(=O)C(C#N)CC#N
reactant | 1-aminoindane | 36.6 g | NC1CCC2=CC=CC=C12 | C9H11N
reactant | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | water | 100 ml | O | H2O
solvent | water | 1200 ml | O | H2O
product | 2-amino-1-(indan-1-yl)pyrrole-4-carbonitrile | 20.4 g, 37% | NC=1N(C=C(C1)C#N)C1CCC2=CC=CC=C12 | C14H13N3
